data/polar.json
{"reaction_name": "Paal–Knorr pyrrole formation", "rsmi": "[O:1]([H:24])[CH2:2][C:3](=[O:4])[CH:5]([H:25])[CH:20]([H:26])[C:6](=[O:7])[CH3:8].[N:9]([H:21])([H:22])[H:23]>>[O:1]([H:24])[CH2:2][c:3]1[n:9]([H:23])[c:6]([CH3:8])[cH:20][cH:5]1.[O:4]([H:21])[H:25].[O:7]([H:22])[H:26]", "epd": [["LP-/Sigma+", [9], [3, 9]], ["Pi-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 21]], ["Sigma-/LP+", [9, 21], [9]], ["Sigma-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 25]], ["Sigma-/LP+", [5, 25], [5]], ["Pi-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 22]], ["Sigma-/LP+", [9, 22], [9]], ["LP-/Sigma+", [9], [6, 9]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 26]], ["Sigma-/LP+", [20, 26], [20]], ["LP-/Pi+", [5], [3, 5]], ["LP-/Pi+", [20], [6, 20]]]}
{"reaction_name": "Native chemical ligation step", "rsmi": "[N:2]([H:4])([H:5])[CH2:10][S:6][H:9].[S:1]([CH3:8])[C:11]([CH3:3])=[O:7]>>[N:2]([H:5])([CH2:10][S:6][H:9])[C:11]([CH3:3])=[O:7].[S:1]([H:4])[CH3:8]", "epd": [["LP-/Sigma+", [2], [2, 11]], ["Pi-/LP+", [7, 11], [7]], ["LP-/Pi+", [7], [7, 11]], ["Sigma-/LP+", [1, 11], [1]], ["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [2, 4], [2]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[C:1]1([O:23][Si:6]([CH3:24])([CH3:25])[CH3:26])=[C:21]([CH3:18])[CH2:11][CH2:5][O:20]1.[cH:2]1[cH:10][cH:3][c:4]2[c:12]([o+:7][c:9](-[c:19]3[cH:15][cH:13][cH:22][cH:14][cH:16]3)[cH:8][cH:17]2)[cH:27]1>>[C:1]1(=[O+:23][Si:6]([CH3:24])([CH3:25])[CH3:26])[O:20][CH2:5][CH2:11][C:21]1([CH:17]1[c:4]2[cH:3][cH:10][cH:2][cH:27][c:12]2[O:7][C:9]([c:19]2[cH:15][cH:13][cH:22][cH:14][cH:16]2)=[CH:8]1)[CH3:18]", "epd": [["LP-/Pi+", [23], [1, 23]], ["Pi-/Sigma+", [21, 1], [21, 17]], ["Pi-/Pi+", [17, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:2](=[O:16])([O:26][CH2:4][c:14]1[cH:19][cH:6][cH:10][cH:9][cH:22]1)[N:30]=[N:29][C:3](=[O:17])[O:27][CH2:5][c:15]1[cH:20][cH:7][cH:11][cH:8][cH:21]1.[CH:1]1=[CH:12][c:13]2[cH:24][cH:23][cH:31][cH:18][c:25]2[CH:32]1[Na:28]>>[CH:1]1=[CH:12][c:13]2[cH:24][cH:23][cH:31][cH:18][c:25]2[CH:32]1[N:29]([C:3](=[O:17])[O:27][CH2:5][c:15]1[cH:20][cH:7][cH:11][cH:8][cH:21]1)[N:30]=[C:2]([O-:16])[O:26][CH2:4][c:14]1[cH:19][cH:6][cH:10][cH:9][cH:22]1.[Na+:28]", "epd": [["Sigma-/Sigma+", [32, 28], [32, 29]], ["Pi-/Pi+", [29, 30], [30, 2]], ["Pi-/LP+", [2, 16], [16]]]}
{"reaction_name": "Tsuji–Trost allylic substitution", "rsmi": "[CH3:1][C:4](=[O:5])[O:12][CH2:9][CH:6]=[CH2:14].[O:2]([CH3:7])[C:15](=[O:10])[CH-:13][C:16]([O:3][CH3:8])=[O:11]>>[CH3:1][C:4](=[O:5])[O-:12].[O:2]([CH3:7])[C:15](=[O:10])[CH:13]([CH2:9][CH:6]=[CH2:14])[C:16]([O:3][CH3:8])=[O:11]", "epd": [["LP-/Sigma+", [13], [9, 13]], ["Sigma-/LP+", [9, 12], [12]]]}
{"reaction_name": "Alkoxymercuration", "rsmi": "[CH2:3]([CH2:5][C:8](=[O:4])[O:6][H:10])[CH:7]=[CH2:9].[I:1][I:2]>>[I-:2].[I:1][CH2:9][CH:7]1[CH2:3][CH2:5][C:8](=[O:4])[O+:6]([H:10])1", "epd": [["Pi-/Sigma+", [7, 9], [1, 9]], ["Sigma-/LP+", [1, 2], [2]], ["LP-/Sigma+", [6], [6, 7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:2]1([P:19]([c:3]2[cH:10][cH:31][cH:6][cH:32][cH:11]2)([c:4]2[cH:12][cH:33][cH:7][cH:34][cH:13]2)=[CH:38][C:26]([O:21][CH2:15][CH3:39])=[O:22])[cH:8][cH:29][cH:5][cH:30][cH:9]1.[n:1]1[n:14][c:37]2[n:18]([cH:23][c:36]([N+:17](=[O:16])[O-:28])[cH:27][c:24]2[N+:25](=[O:20])[O-:40])[n:35]1>>[n:1]1[n:14][c:37]2[n:18]([n:35]1)[CH:23]([CH:38]([P+:19]([c:2]1[cH:8][cH:29][cH:5][cH:30][cH:9]1)([c:3]1[cH:10][cH:31][cH:6][cH:32][cH:11]1)[c:4]1[cH:12][cH:33][cH:7][cH:34][cH:13]1)[C:26]([O:21][CH2:15][CH3:39])=[O:22])[C:36](=[N+:17]([O-:16])[O-:28])[CH:27]=[C:24]2[N+:25](=[O:20])[O-:40]", "epd": [["Pi-/Sigma+", [38, 19], [38, 23]], ["Pi-/Pi+", [23, 36], [36, 17]], ["Pi-/LP+", [17, 16], [16]]]}
{"reaction_name": "Lactam ring-opening polymerization", "rsmi": "[N:1]([H:8])1[C:2](=[O:3])[CH2:4][CH2:5]1.[O-:6][H:7]>>[N:1]([H:8])([H:7])[CH2:5][CH2:4][C:2](=[O:3])[O-:6]", "epd": [["LP-/Sigma+", [6], [2, 6]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Pi+", [3], [2, 3]], ["Sigma-/LP+", [1, 2], [1]], ["LP-/Sigma+", [1], [1, 7]], ["Sigma-/LP+", [6, 7], [6]]]}
